US08735586B2
2-Methyl-1-phenyl-1H-benzimidazole-5-carboxylic acid methyl ester
The title compound was prepared with the analogous procedure described in example 1 using 4-Bromo-3-nitrobenzoic acid methyl ester (130 mg, 0.5 mmol) and N-phenylacetamide (81 mg, 0.6 mmol) as starting materials to yield the title compound as colorless crystals (78 mg, 59%). mp 108-110° C. 1H NMR (DMSO) δ 2.55 (s, 3 H), 3.78 (s, 3 H), 7.30 (d, J=8.2 Hz, 1 H), 7.52-7.71 (m, 5 H), 7.92 (d, J=8.2 Hz, 1 H), 8.30 (br s, 1 H); 13C NMR δ 13.6, 52.1, 110.8, 118.5, 124.7, 124.8, 127.0, 129.7, 130.1, 134.0, 137.9, 153.7, 157.8, 166.2. HRMS (FAB): cal. for C16H15N2O2 [M+H]+: 267.1134; found: 267.1128.

reactant | 4-Bromo-3-nitrobenzoic acid methyl ester | 0.5 mmol, 130 mg | COC(C1=CC(=C(C=C1)Br)[N+](=O)[O-])=O | C8H6BrNO4
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
product | 2-Methyl-1-phenyl-1H-benzimidazole-5-carboxylic acid methyl ester | 78 mg, 59% | COC(=O)C1=CC2=C(N(C(=N2)C)C2=CC=CC=C2)C=C1 | C16H14N2O2
